US08309724B2
Step B: Preparation of 5-trifluoromethyl-2-chloromethyl-1,3,4-oxadiazole
N′-(2-chloroacetyl)-trifluoroacetohydrazide (60 g) and acetonitrile (120 mL) are charged into a round-bottom flask and cooled to about 0° C. Phosphorus oxychloride (27.1 g) is added to the solution for about 15 minutes. The reaction mixture is heated to about 80° C. and stirred for about 28 hours. In a separate vessel, isopropyl acetate (180 mL) and water (180 mL) are mixed and cooled to 0° C. The reaction slurry is added to this solution slowly. The organic layer is separated and washed with 5% sodium bicarbonate solution (180 mL) and finally with 20% sodium chloride solution (180 mL). The organic layer is dried over sodium sulfate. The solvent is completely distilled off under vacuum to afford the title compound. (Yield: 82.2%)

reactant | N′-(2-chloroacetyl)-trifluoroacetohydrazide | 60 g | ClCC(=O)NNC(C(F)(F)F)=O | C4H4ClF3N2O2
reactant | acetonitrile | 120 mL | C(C)#N | C2H3N
reactant | Phosphorus oxychloride | 27.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | isopropyl acetate | 180 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | water | 180 mL | O | H2O
product | 5-trifluoromethyl-2-chloromethyl-1,3,4-oxadiazole | Yield: 82.2% | FC(C1=NN=C(O1)CCl)(F)F | C4H2ClF3N2O
